US06200995B1
28.1 Preparation of ethyl 5-nitro-2-(3,4-difluorophenoxy)benzoate
Using the method described in Example 21.2, ethyl 2-chloro-5-nitrobenzoate (0.6 g) and 3,4-difluorophenol (0.34 g) were combined to provide 0.8 g of the title compound as an oil.

reactant | ethyl 2-chloro-5-nitrobenzoate | 0.6 g | ClC1=C(C(=O)OCC)C=C(C=C1)[N+](=O)[O-] | C9H8ClNO4
reactant | 3,4-difluorophenol | 0.34 g | FC=1C=C(C=CC1F)O | C6H4F2O
product | ethyl 5-nitro-2-(3,4-difluorophenoxy)benzoate | 0.8 g | [N+](=O)([O-])C=1C=CC(=C(C(=O)OCC)C1)OC1=CC(=C(C=C1)F)F | C15H11F2NO5
